US09371289B2
Synthesis of methyl 4-[(1S)-1-[[(3R)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]amino]ethyl]benzoate
Cool a mixture of ethyl acetate (214 mL) and ethanol (87.6 mL, 1.51 mol) to 0° C., and then add acetyl chloride (97.4 mL, 1.37 mol) in a dropwise fashion. Stir the mixture for 30 minutes while allowing it to warm to room temperature. Add a solution of tert-butyl (3R)-3-[[(1S)-1-(4-methoxycarbonylphenyl)ethyl]carbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylate (60 g, 137 mmol) in ethyl acetate (480 mL), and then stir the resulting mixture at 40° C. overnight. Cool the mixture to room temperature, then isolate the resulting precipitate by filtration, and dry under reduced pressure. Add water (300 mL) to the solid, and then add a 32% aqueous ammonia solution until the pH of the mixture reaches 10. Isolate the suspended solids by filtration, then dry them in a vacuum oven at 45° C. overnight to furnish the title compound as a white solid (44 g, 95% yield). Mass spectrum (m/z): 339 ([M+H]+), 677 ([2M+H]+), 699 ([2M+Na]+).

reactant | ethanol | 1.51 mol, 87.6 mL | C(C)O | C2H6O
reactant | acetyl chloride | 1.37 mol, 97.4 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl (3R)-3-[[(1S)-1-(4-methoxycarbonylphenyl)ethyl]carbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylate | 137 mmol, 60 g | COC(=O)C1=CC=C(C=C1)[C@H](C)NC(=O)[C@@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C25H30N2O5
solvent | ethyl acetate | 480 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 214 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-[(1S)-1-[[(3R)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]amino]ethyl]benzoate | 44 g, 95% yield | C1N[C@H](CC2=CC=CC=C12)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C20H22N2O3
